US06528503B2
To a stirred solution of methyl 2-bromo-5-chlorobenzoate (11.5 g, 46 mmol) in degassed DMF (50 mL) was added zinc cyanide (2.82 g, 24.0 mmol) and palladium tetrakis-triphenylphosphine (1.0 g, 0.86 mmol) and the mixture was heated to 90° C. for 18 h. The reaction was partitioned between EtOAc (200 mL) and water (100 mL). The organic phase was concentrated in vacuo and the residue was purified by flash chromatography eluting with a gradient of 10%, 15%, 20% ethyl acetate in hexane yielding methyl 5-chloro-2-cyanobenzoate as a white solid (8.0 g, 88% yield). TLC Rf=0.4 (15% EtOAc-hexanes); HPLC RT=3.13 min (Method A); 1H NMR (CDCl3, 400 MHz) 8.13 ppm (d, 1H, J=1.83 Hz); 8.09 ppm (d, 1H, J=8.24 Hz); 7.29 ppm (dd, 1H, J=8.34, 2.10 Hz); 4.02 ppm (s, 3H).

reactant | methyl 2-bromo-5-chlorobenzoate | 46 mmol, 11.5 g | BrC1=C(C(=O)OC)C=C(C=C1)Cl | C8H6BrClO2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 24.0 mmol, 2.82 g | [C-]#N.[Zn+2].[C-]#N
product | methyl 5-chloro-2-cyanobenzoate | 8.0 g, 88% yield | ClC=1C=CC(=C(C(=O)OC)C1)C#N | C9H6ClNO2
